US07608621B2
N-({5-Hydroxy-6-methyl-2-[(2-nitrophenyl)methyl]-3-oxo-2,3-dihydro-4-pyridazinyl}carbonyl)glycine
Ethyl 5-hydroxy-6-methyl-2-[(2-nitrophenyl)methyl]-3-oxo-2,3-dihydro-4-pyridazinecarboxylate. Sodium hydride (50 mg, 1.26 mmol) was added to a solution of the compound from example 28b) (100 mg, 0.50 mmol) in N,N-Dimethylformamide (DMF) (2 mL) at 0° C. The reaction was brought to room temperature and stirred for 45 minutes. The temperature was then reduced to 0° C. and 2-nitrobenzyl bromide (109 mg, 0.50 mmol) was added. The reaction was brought to room temperature and stirred for 3 hours followed by the addition of 1N HCl. The solution was diluted with EtOAc and H2O and the layers separated. The aqueous layer was backextracted with EtOAc several times. The combined organic layers were washed with Brine, dried (MgSO4), filtered and concentrated. The product was purified by column chromatography (SiO2, 0-6% MeOH/CH2Cl2) to give the title compound as an orange oil (83 mg, 50%). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.28 (s, 1H) 8.08 (dd, J=8.08, 1.26 Hz, 1H) 7.70 (td, J=7.64, 1.39 Hz, 1H) 7.53-7.61 (m, 1H) 7.18 (dd, J=7.71, 0.88 Hz, 1H) 5.45 (s, 2H) 4.26 (q, J=7.24 Hz, 2H) 2.20 (s, 3H) 1.25 (t, J=7.07 Hz, 3H).

reactant | Ethyl 5-hydroxy-6-methyl-2-[(2-nitrophenyl)methyl]-3-oxo-2,3-dihydro-4-pyridazinecarboxylate | OC1=C(C(N(N=C1C)CC1=C(C=CC=C1)[N+](=O)[O-])=O)C(=O)OCC | C15H15N3O6
reactant | Sodium hydride | 1.26 mmol, 50 mg | [H-].[Na+]
reactant | 2-nitrobenzyl bromide | 0.50 mmol, 109 mg | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | HCl | 1N | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | N,N-Dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | N-({5-Hydroxy-6-methyl-2-[(2-nitrophenyl)methyl]-3-oxo-2,3-dihydro-4-pyridazinyl}carbonyl)glycine | 83 mg, 50% | OC1=C(C(N(N=C1C)CC1=C(C=CC=C1)[N+](=O)[O-])=O)C(=O)NCC(=O)O | C15H14N4O7
